US08389523B2
10.5 g (73.6 mmol) of 3-chloro-1,2-phenylenediamine and 12.8 g (73.5 mmol) of diethyl ketomalonate were dissolved in ethanol, and the solution was heated to reflux for 3 hours. While heating to reflux, ethanol was added thereto until precipitated crystals dissolved. The reaction mixture was cooled to room temperature, and then precipitated crystals were separated by filtration. The filter cake was washed with cold ethanol, and then dried, to obtain 10.5 g (yield: 51%) of ethyl 5-chloro-2-oxo-1,2-dihydroquinoxaline-3-carboxylate as pale yellow acicular crystals.

reactant | 3-chloro-1,2-phenylenediamine | 73.6 mmol, 10.5 g | ClC=1C(=C(C=CC1)N)N | C6H7ClN2
reactant | diethyl ketomalonate | 73.5 mmol, 12.8 g | O=C(C(=O)OCC)C(=O)OCC | C7H10O5
solvent | ethanol | C(C)O | C2H6O
product | ethyl 5-chloro-2-oxo-1,2-dihydroquinoxaline-3-carboxylate | 10.5 g, yield: 51% | ClC1=C2N=C(C(NC2=CC=C1)=O)C(=O)OCC | C11H9ClN2O3
